US07132436B2
N-(4-phenyl-1,3-thiazol-2-yl)-4-propylbenzenesulfonamide
The title compound was prepared from 2-amino-4-phenylthiazole and 4-n-propylbenzenesulfonyl chloride as described in the synthetic METHOD B to give a white solid (29.8 mg) with purity >90%. MS (pos) m/z 359.2.

reactant | 2-amino-4-phenylthiazole | NC=1SC=C(N1)C1=CC=CC=C1 | C9H8N2S
reactant | 4-n-propylbenzenesulfonyl chloride | C(CC)C1=CC=C(C=C1)S(=O)(=O)Cl | C9H11ClO2S
product | N-(4-phenyl-1,3-thiazol-2-yl)-4-propylbenzenesulfonamide | C1(=CC=CC=C1)C=1N=C(SC1)NS(=O)(=O)C1=CC=C(C=C1)CCC | C18H18N2O2S2
